US04208343
Equimolar quantities of 4-nitrophthalic anhydride and 5-nitroanthranilonitrile (Aldrich Chemical Co.) can be heated in a solvent such as dimethylformamide, dimethylacetamide or dimethyl sulfoxide to give N-(2'-cyano-4'-nitrophenyl)-4-nitrophthalimide, which can be isolated and purified by recrystallization. An alternative method of synthesis for this intermediate is the reaction of 2-chloro-5-nitrobenzonitrile with the potassium salt of 4-nitrophthalimide, using one of the solvents listed above.

reactant | 4-nitrophthalic anhydride | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | 5-nitroanthranilonitrile | [N+](=O)([O-])C1=CC=C(C(C#N)=C1)N | C7H5N3O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | N-(2'-cyano-4'-nitrophenyl)-4-nitrophthalimide | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C15H6N4O6
